US03966938
cis-6-(4-Benzoylaminophenyl)-8,9-dimethoxy-2-methyl-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridine
2 g of 6-(4-aminophenyl)-8,9-dimethoxy-2-methyl-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridine are dissolved in 30 ml of pyridine, 1 g of benzoylchloride is added to the solution and the reaction mixture is allowed to stand at room temperature for 15 hours. The reaction mixture is then treated with 10 ml of water, allowed to stand for 10 minutes and is then reduced in volume under vacuum. The resulting residue is rendered alkaline with dilute sodium hydroxide and is then extracted with methylenechloride. After evapaorating off of the organic phase, the crude product is dissolved in ethanol and rendered acid with an ethanolic hydrochloric acid solution, whereby the dihydrochloride of the title compound crystallizes out in yellowish prisms of M.P. 240°-245°.

reactant | 6-(4-aminophenyl)-8,9-dimethoxy-2-methyl-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridine | 2 g | NC1=CC=C(C=C1)C1=NC2CCN(CC2C2=C1C=C(C(=C2)OC)OC)C | C21H25N3O2
reactant | benzoylchloride | 1 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | water | 10 ml | O | H2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | cis-6-(4-Benzoylaminophenyl)-8,9-dimethoxy-2-methyl-1,2,3,4,4a,10b-hexahydro-benzo[c][1,6]naphthyridine | C(C1=CC=CC=C1)(=O)NC1=CC=C(C=C1)C1=N[C@H]2CCN(C[C@H]2C2=C1C=C(C(=C2)OC)OC)C | C28H29N3O3
